** sch_path: /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/Gates/XORTransmissonGate.sch
**.subckt XORTransmissonGate XOR_IN1 VP XOR_IN2 XOR_OUT
*.ipin XOR_IN2
*.ipin XOR_IN1
*.opin XOR_OUT
*.iopin VP
x1 XOR_IN1 VP XOR_IN2 XOR_OUT GND net1 TransmissionGate
x2 net1 VP net2 XOR_OUT GND XOR_IN1 TransmissionGate
x3 VP net2 XOR_IN2 inverter
x4 VP net1 XOR_IN1 inverter
**.ends

* expanding   symbol:  /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/GenericSym/TransmissionGate.sym # of pins=6
** sym_path: /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/GenericSym/TransmissionGate.sym
** sch_path: /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/GenericSym/TransmissionGate.sch
.subckt TransmissionGate X VP A Y VN X'
*.ipin A
*.opin Y
*.ipin X'
*.ipin X
*.iopin VP
*.iopin VN
XM1 A X Y VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM2 A X' Y VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
**** begin user architecture code

.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

**** end user architecture code
.ends


* expanding   symbol:  /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/GenericSym/inverter.sym # of pins=3
** sym_path: /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/GenericSym/inverter.sym
** sch_path: /home/safal/projects/GitHub_CMOS_4bit_ALU/AllSymbols&Sch/GenericSym/inverter.sch
.subckt inverter VP inv_out inv_in
*.ipin inv_in
*.opin inv_out
*.iopin VP
XM1 inv_out inv_in VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1 m=1
XM2 inv_out inv_in GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
